US04039551
In the manner given in Example 2, a solution of hydrazine hydrate in ethanol is reacted at 65° C. with 8-nitro-1-[(phthalimidooxy)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine to give 1-[(aminooxy)methyl]-8-nitro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | hydrazine hydrate | O.NN
reactant | 8-nitro-1-[(phthalimidooxy)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CON3C(C=2C(C3=O)=CC=CC2)=O)C2=C(C=CC=C2)Cl)C1 | C25H15ClN6O5
solvent | ethanol | C(C)O | C2H6O
product | 1-[(aminooxy)methyl]-8-nitro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NOCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C17H13ClN6O3
